US03946027
2-Methyl-4-(3'-fluorophenyl)-1,4-dihydropyridine-3,5,6-tricarboxylic acid triethyl ester. ##SPC29##
6.2 g of 3-fluorobenzaldehyde, 6.5 g of β-aminocrotonic acid ethyl ester and 9.5 g of oxalacetic acid diethyl ester in 40 ccs of ethanol are heated to the boil overnight, the mixture is evaporated in vacuo and a light yellow oil is obtained.

reactant | 3-fluorobenzaldehyde | 6.2 g | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | β-aminocrotonic acid ethyl ester | 6.5 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
reactant | oxalacetic acid diethyl ester | 9.5 g | C(C)OC(CC(=O)C(=O)OCC)=O | C8H12O5
solvent | ethanol | C(C)O | C2H6O
product | 2-Methyl-4-(3'-fluorophenyl)-1,4-dihydropyridine-3,5,6-tricarboxylic acid triethyl ester | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)F)C(=O)OCC)C(=O)OCC)C | C21H24FNO6
